US06984661B2
3-[4-(3-Bromo-propoxy)phenyl]-2-methyl-2-phenoxypropionic acid ethyl ester
3-(4-Hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester (4.0 g, 13.3 mmol) and 1,3-dibromopropane (7.0 mL, 66.6 mmol) are dissolved in methyl ethyl ketone (100 mL). Powdered K2CO3 (2.4 g, 17.3 mmol) is added. The mixture is heated under reflux for 4 h, cooled, filtered and concentrated to an oil. The crude oil is chromatographed (silica gel; hexane/EtOAc, 5:1 to 1:4) to afford the title compound (5.0 g, 89%). MS (ESI) m/z 421 (M+H)+. Step 2.

reactant | 3-(4-Hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | 13.3 mmol, 4.0 g | C(C)OC(C(CC1=CC=C(C=C1)O)(OC1=CC=CC=C1)C)=O | C18H20O4
reactant | 1,3-dibromopropane | 66.6 mmol, 7.0 mL | BrCCCBr | C3H6Br2
reactant | K2CO3 | 17.3 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methyl ethyl ketone | 100 mL | C(C)C(=O)C | C4H8O
product | 3-[4-(3-Bromo-propoxy)phenyl]-2-methyl-2-phenoxypropionic acid ethyl ester | 5.0 g, 89% | C(C)OC(C(CC1=CC=C(C=C1)OCCCBr)(OC1=CC=CC=C1)C)=O | C21H25BrO4
